US07932251B2
4-(3-Bromo-propyl)-piperazine-1-carboxylic acid tert-butyl ester (172 mg) was added to a mixture of 6-(3-chloro-4-hydroxy-5-trifluoromethyl-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile (165 mg) and potassium carbonate (130 mg) in acetonitrile (15 ml). The mixture was refluxed for 4 hours, then ethyl acetate (50 ml) and water (30 ml) were added and the organic layer was washed with brine, then dried over sodium sulfate, filtered and concentrated under reduced pressure to afford a crude product, 4-{3-[2-chloro-4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-6-trifluoromethyl-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester.

reactant | 4-(3-Bromo-propyl)-piperazine-1-carboxylic acid tert-butyl ester | 172 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCBr | C12H23BrN2O2
reactant | 6-(3-chloro-4-hydroxy-5-trifluoromethyl-phenyl)-1-methyl-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 165 mg | ClC=1C=C(C=C(C1O)C(F)(F)F)C1=CC2=C(C(=N1)C#N)N=CN2C | C15H8ClF3N4O
reactant | potassium carbonate | 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
product | 4-{3-[2-chloro-4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-6-trifluoromethyl-phenoxy]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCOC1=C(C=C(C=C1C(F)(F)F)C1=CC2=C(C(=N1)C#N)N=CN2C)Cl | C27H30ClF3N6O3
